### PR TITLE
[Merged by Bors] - feat(Analysis/InnerProductSpace/Projection): define symmetric projections

### PR DESCRIPTION
**Pull request by themathqueen**
This pr defines symmetric projections (`LinearMap.IsSymmetricProjection`) which are simply symmetric idempotents. This generalizes most of the results concerning star projection operators (since it needs completeness). In a complete space, these two definitions obviously coincide.

An operator `p` is a symmetric projection if and only if it equals `(range p).starProjection`. This is a more general version of [isStarProjection_iff_eq_starProjection_range](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/InnerProductSpace/Adjoint.html#isStarProjection_iff_eq_starProjection_range).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 1]
```diff
@@ -168,6 +168,10 @@ theorem IsIdempotentElem.isPositive_iff_isSymmetric {T : E →ₗ[𝕜] E} (hT :
   rw [← hT.eq, Module.End.mul_apply, h]
   exact inner_self_nonneg
 
+theorem IsPositive.of_isSymmetricProjection {p : E →ₗ[𝕜] E} (hp : p.IsSymmetricProjection) :
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean:173]: should I remove `LinearMap.IsPositive.of_isStarProjection` since this one is more general (without finite-dimensionality)?

File: Mathlib/Analysis/InnerProductSpace/Symmetric.lean [hunk 2]
```diff
@@ -285,6 +306,26 @@ theorem IsIdempotentElem.isSymmetric_iff_orthogonal_range {T : E →ₗ[𝕜] E}
   ⟨fun hT => hT.orthogonal_range, fun hT =>
     h.isSymmetric_iff_isOrtho_range_ker.eq ▸ hT.symm ▸ isOrtho_orthogonal_right _⟩
 
+open LinearMap in
+/-- Symmetric projections are equal iff their range are. -/
+theorem IsSymmetricProjection.ext_iff {S T : E →ₗ[𝕜] E}
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Symmetric.lean:305]: should I do this also for continuous linear maps? and then maybe remove `IsStarProjection.ext_iff`?

File: Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean [hunk 3]
```diff
@@ -641,6 +648,33 @@ theorem starProjection_isSymmetric [K.HasOrthogonalProjection] :
...
+    {U : Submodule 𝕜 E} [U.HasOrthogonalProjection] :
+    U.starProjection.IsSymmetricProjection :=
+  ⟨by simpa [IsIdempotentElem, mul_def, ← coe_comp, Module.End.mul_eq_comp]
+    using U.isIdempotentElem_starProjection, U.starProjection_isSymmetric⟩
+
+open LinearMap in
+/-- An operator is a symmetric projection if and only if it is an orthogonal projection. -/
+theorem _root_.LinearMap.isSymmetricProjection_iff_eq_coe_starProjection_range {p : E →ₗ[𝕜] E} :
+    p.IsSymmetricProjection ↔ ∃ (_ : (LinearMap.range p).HasOrthogonalProjection),
+    p = (LinearMap.range p).starProjection := by
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean:663]: this could instead be `p = (range p).isCompl_orthogonal_of_hasOrthogonalProjection.projection`, but idk, I feel like this would look confusing in the infoview and docs (something like `IsCompl.projection ⋯`).

File: Mathlib/Analysis/InnerProductSpace/Positive.lean (hunk 1 above)
Comment (j-loreaux) [reply Mathlib/Analysis/InnerProductSpace/Positive.lean:173]: That's fine, just add a deprecation.

File: Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean [hunk 4]
```diff
@@ -549,6 +549,13 @@ theorem _root_.ContinuousLinearMap.IsIdempotentElem.hasOrthogonalProjection_rang
   have := hp.isClosed_range.completeSpace_coe
   .ofCompleteSpace _
 
+open LinearMap in
+theorem _root_.LinearMap.IsSymmetricProjection.hasOrthogonalProjection_range
+    {p : E →ₗ[𝕜] E} (hp : p.IsSymmetricProjection) :
+    (range p).HasOrthogonalProjection := ⟨fun v => ⟨p v, by
+  simp [hp.isIdempotentElem.isSymmetric_iff_orthogonal_range.mp hp.isSymmetric,
+    ← Module.End.mul_apply, hp.isIdempotentElem.eq]⟩⟩
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean]: I think this formatting is a bit more in line with our style, even if it's not directly mentioned in the style guide.
```suggestion
    (range p).HasOrthogonalProjection :=
  ⟨fun v => ⟨p v, by
    simp [hp.isIdempotentElem.isSymmetric_iff_orthogonal_range.mp hp.isSymmetric,
      ← Module.End.mul_apply, hp.isIdempotentElem.eq]⟩⟩
```

File: Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean [hunk 5]
```diff
@@ -641,6 +648,32 @@ theorem starProjection_isSymmetric [K.HasOrthogonalProjection] :
 @[deprecated (since := "2025-07-07")] alias
   orthogonalProjection_isSymmetric := starProjection_isSymmetric
 
+open ContinuousLinearMap in
+/-- `U.starProjection` is a symmetric projection. -/
+theorem starProjection_isSymmetricProjection
+    {U : Submodule 𝕜 E} [U.HasOrthogonalProjection] :
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean]: 1. The order should be switched, Just because dot notation makes it *appear* second, we still name according to prefix notation (infix / postfix operators like `*` and `⁻¹` are considered differently).
2. Optionally, you could create an alias with the name `protected _root_.LinearMap.IsSymmetricProjection.starProjection` for use with anonymous dot notation.
```suggestion
open ContinuousLinearMap in
/-- `U.starProjection` is a symmetric projection. -/
@[simp]
theorem isSymmetricProjection_starProjection
    (U : Submodule 𝕜 E}) [U.HasOrthogonalProjection] :
```

File: Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean (hunk 3 above)
Comment (j-loreaux) [reply Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean:663]: I think it makes more sense this way, because I think knowing that `p` is the `starProjection` onto its range is stronger than knowing it's the `projection` onto its range.

File: Mathlib/Analysis/InnerProductSpace/Symmetric.lean (hunk 2 above)
Comment (j-loreaux) [reply Mathlib/Analysis/InnerProductSpace/Symmetric.lean:305]: I understand why, but let's not right now. I have a plan which would make a `ContinuousLinearMap` version of this pretty much obsolete. I'll ping you on Zulip when I mention it there.

**Review by j-loreaux — COMMENTED** [review]
I'm mostly happy with this.

**Comment by j-loreaux** [comment]
Thanks!

bors merge
